US08426420B2
ix) 4-[(S)-3-tert-Butoxycarbonylamino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 390 mg 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 5 ml DMF were added 359 mg HATU and 156 μl DIPEA. After 10 minutes a solution of 326 mg 4-((S)-2-amino-3-tert-butoxycarbonyl-amino-propionyl)-piperazine-1-carboxylic acid ethyl ester in 2 ml DMF was added and after 30 minutes the reaction mixture was diluted with ethyl acetate and extracted with aqueous LiCl (4%), 0.1 M HCl and saturated NaHCO3. The crude product (600 mg) thus obtained after evaporation of the solvent was deprotected in the following step.

reactant | 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 390 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | HATU | 359 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 156 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-((S)-2-amino-3-tert-butoxycarbonyl-amino-propionyl)-piperazine-1-carboxylic acid ethyl ester | 326 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](C(C(=O)OC(C)(C)C)N)N)=O | C15H28N4O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-[(S)-3-tert-Butoxycarbonylamino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester | 600 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CNC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C36H50N8O9
